US05026750
1-Cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl Thioglycolate
1-Cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-ol a (25.5 grams, 0.1 mol) and methyl thioglycolate (10.6 grams, 0.11 mol) are dissolved in toluene. Lithium amide (0.09 mol) is added and the reaction mixture is heated under reflux and the distillate collected in a Dean-Stark trap. After heating under reflux overnight, the toluene is removed under reduced pressure. Acetic acid is added to neutralize the basic catalyst. The crude reaction product is purified by liquid chromatography to afford the title compound.

reactant | 1-Cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-ol | C1(CCCCC1)ON1C(CC(CC1(C)C)O)(C)C | C15H29NO2
reactant | methyl thioglycolate | 0.11 mol, 10.6 grams | C(CS)(=O)OC | C3H6O2S
reactant | Lithium amide | 0.09 mol | [NH2-].[Li+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl Thioglycolate | C(CS)(=O)OC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C17H31NO3S
